US09403806B1
(1R,5R)-3-tert-Butyl 1-ethyl 3-azabicyclo[3.1.0]hexane-1,3-dicarboxylate (142):
(1R,5R)-Ethyl 3-azabicyclo[3.1.0]hexane-1-carboxylate (141-formate) was dissolved in CH2Cl2 (30 mL) and triethylamine (1.08 mL, 0.0078 mol). Di-t-butyl dicarbonate (1.49 g, 0.0078 mol) was added and the mixture was stirred at room temperature for 1 hour. The reaction was concentrated and the residue was chromatographed over 25 g of silica gel with 15% ethyl acetate/hexanes, to obtain 1.27 g of clear colorless oil. MS (ESI) m/z 294 [M+K]+. 1H NMR (CDCl3) δ 0.82-0.85 (t, 1 H), 1.24-1.28 (m, 3 H), 1.44 (s, 9 H), 1.56-1.59 (m, 2 H), 3.40-3.79 (m, 4H), 4.13-4.19 (m, 2 H).

reactant | (1R,5R)-Ethyl 3-azabicyclo[3.1.0]hexane-1-carboxylate | [C@@]12(CNC[C@@H]2C1)C(=O)OCC | C8H13NO2
reactant | triethylamine | 0.0078 mol, 1.08 mL | C(C)N(CC)CC | C6H15N
reactant | Di-t-butyl dicarbonate | 0.0078 mol, 1.49 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | (1R,5R)-3-tert-Butyl 1-ethyl 3-azabicyclo[3.1.0]hexane-1,3-dicarboxylate | 1.27 g | [C@@]12(CN(C[C@@H]2C1)C(=O)OC(C)(C)C)C(=O)OCC | C13H21NO4
